US07741323B2
6-Bromomethyl-1-oxo-3-phenyl-1H-indene-2-carboxylate ethyl ester (1.1 g, 2.96 mmol) was dissolved in N,N-dimethylformamide. Pyridine (264 μl, 3.26 mmol) and morpholine (284 μl, 3.26 mmol) were added thereto and the mixture was stirred for 2 hours. After the reaction was completed, the organic layer was extracted with ethyl acetate/ammonium chloride/saturated sodium chloride, dried over anhydrous magnesium sulfate, concentrated, and the resulting residue was purified by column chromatography to obtain 180 mg of 6-(morpholine-4-yl methyl)-1-oxo-3-phenyl-1H-indene-2-carboxylate ethyl ester (180 mg, yield 16.1%) as red oil.

reactant | 6-Bromomethyl-1-oxo-3-phenyl-1H-indene-2-carboxylate ethyl ester | 2.96 mmol, 1.1 g | C(C)OC(=O)C=1C(C2=CC(=CC=C2C1C1=CC=CC=C1)CBr)=O | C19H15BrO3
reactant | Pyridine | 3.26 mmol, 264 μl | N1=CC=CC=C1 | C5H5N
reactant | morpholine | 3.26 mmol, 284 μl | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-(morpholine-4-yl methyl)-1-oxo-3-phenyl-1H-indene-2-carboxylate ethyl ester | 180 mg, yield 16.1% | C(C)OC(=O)C=1C(C2=CC(=CC=C2C1C1=CC=CC=C1)CN1CCOCC1)=O | C23H23NO4
